US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6carboximidate and benzyl chloroformate, there is obtained ethyl N-benzyloxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e:M+ 400 (6), 371 (6), 309 (32), 263 (20), 194 (35), 179 (15), 167 (27), 108 (12), 91 (100);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | ethyl N-benzyloxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C1=CC=CC=C1)OC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C25H24N2O3
